US07820848B2
2.10 g (6.0 mmol) triacetoxystilbene were dissolved under reflux in 19.3 ml methanol and 39 ml ammonium acetate solution (25%) was added to the solution. The reaction mixture was stirred for three hours at the same temperature and afterwards the methanol was distilled off. By cooling to 5° C. the product crystallized and could be filtered off. 1.33 g (5.82 mmol, 97%) resveratrol were obtained as a pure compound. The mother liquor was purified by extraction with methyl-butyl-ether and neutralized with ammonia. After concentration under reduced pressure the solution was used again for the described reaction.

reactant | triacetoxystilbene | 6.0 mmol, 2.10 g | C(C)(=O)OC1=C(C(=C(C=C1)C=CC1=CC=CC=C1)OC(C)=O)OC(C)=O | C20H18O6
reactant | ammonium acetate | 39 ml | C(C)(=O)[O-].[NH4+]
reactant | methanol | 19.3 ml | CO | CH4O
product | resveratrol | 5.82 mmol, 1.33 g, 97% | C1(=CC(O)=CC(O)=C1)C=CC1=CC=C(O)C=C1 | C14H12O3
